US03963706
b. 2-Phenylamino-N-(2-methyl-4-sulphamoylphenyl)-acetamide
2-Chloro-N-(2-methyl-4-sulphamoylphenyl)-acetamide (13.1g) and aniline (9.5 g) were heated together 21/2 hr on a water bath at 90°. The mixture was worked up as in Example 1(b) to yield 7 g beige crystals, m.p. 195°-196°

reactant | 2-Chloro-N-(2-methyl-4-sulphamoylphenyl)-acetamide | 13.1g | ClCC(=O)NC1=C(C=C(C=C1)S(N)(=O)=O)C | C9H11ClN2O3S
reactant | aniline | 9.5 g | NC1=CC=CC=C1 | C6H7N
product | 2-Phenylamino-N-(2-methyl-4-sulphamoylphenyl)-acetamide | 7 g | C1(=CC=CC=C1)NCC(=O)NC1=C(C=C(C=C1)S(N)(=O)=O)C | C15H17N3O3S
